US04966901
3-Acetyl-1-(2-acetylaminoethyl)-2,5-dimethylpyrrole
13.7 g (0.1 mol) of anhydrous zinc chloride are dissolved in 100 ml of ether and the solution is added to 18.0 g (0.1 mol) of 1-(2-acetylaminoethyl)-2,5-dimethylpyrrole and 9.5 ml (0.1 mol) of acetic anhydride in 50 ml of ether. After 1 hour at room temperature, 50 ml of ethylene glycol dimethyl ether are added and stirring is continued for 20 hours. After the hydrolysis, the organic phase is concentrated, the residue is chromatographed and the product is recrystallized from ethyl acetate.

reactant | 1-(2-acetylaminoethyl)-2,5-dimethylpyrrole | 0.1 mol, 18.0 g | C(C)(=O)NCCN1C(=CC=C1C)C | C10H16N2O
reactant | acetic anhydride | 0.1 mol, 9.5 ml | C(C)(=O)OC(C)=O | C4H6O3
reactant | ethylene glycol dimethyl ether | 50 ml | COCCOC | C4H10O2
solvent | ether | 100 ml | CCOCC | C4H10O
solvent | ether | 50 ml | CCOCC | C4H10O
catalyst | zinc chloride | 0.1 mol, 13.7 g | [Cl-].[Zn+2].[Cl-]
product | 3-Acetyl-1-(2-acetylaminoethyl)-2,5-dimethylpyrrole | C(C)(=O)C1=C(N(C(=C1)C)CCNC(C)=O)C | C12H18N2O2
